US08530467B2
Part C. Preparation of (R)-tert-butyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate
(R)-4-(1-((4-(tert-butoxycarbonyl)morpholin-2-yl)methyl)-5-methyl-1H-benzo[d]imidazol-2-yl)-3,5-difluorobenzoic acid (750 mg, 1.54 mmol) was added to DMT-MM (408 mg, 1.69 mmol) in DMF (30.00 mL) under N2. The resulting suspension was stirred for 30 min. Afterward, methylamine 33% (by weight) solution in absolute ethanol (0.458 mL, 1.69 mmol) was added, and the mixture was stirred for 3 hr. The mixture was then concentrated under reduced pressure, and the resulting residue was dissolved in EtOAc and washed sequentially with water and brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified on preparative HPLC MS using the short high pH shallow gradient method (mobile phase: 30-50% B; A: H2O with 10 mM NH4CO3 and 0.375% NH4OH v/v; B: CH3CN; 10 min run; XBridge Prep C18 OBD, Waters reverse phase column; column size: 30×50 mm; and particle size 5 μm). This produced (S)-tert-butyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate as an oil, which was used without further purification (1.4 g, >100% yield) in the next step. The oil was analyzed on analytical HPLC MS using the high pH gradient method (mobile phase: 5-95% B; A: H2O with 10 mM NH4CO3 and 0.375% NH4OH v/v; B: CH3CN; 2.25 min run; X-Bridge C18; column size: 2.1×30 mm, particle size: 5 μm). MS m/z 501.4 [M+H]+ (ESI), Rt 1.85 min.

reactant | (R)-4-(1-((4-(tert-butoxycarbonyl)morpholin-2-yl)methyl)-5-methyl-1H-benzo[d]imidazol-2-yl)-3,5-difluorobenzoic acid | 1.54 mmol, 750 mg | C(C)(C)(C)OC(=O)N1C[C@H](OCC1)CN1C(=NC2=C1C=CC(=C2)C)C2=C(C=C(C(=O)O)C=C2F)F | C25H27F2N3O5
reactant | DMT-MM | 1.69 mmol, 408 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | methylamine | CN | CH5N
reactant | ethanol | 1.69 mmol, 0.458 mL | C(C)O | C2H6O
solvent | DMF | 30.00 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-((2-(2,6-difluoro-4-(methylcarbamoyl)phenyl)-5-methyl-1H-benzo[d]imidazol-1-yl)methyl)morpholine-4-carboxylate | >100% yield | FC1=C(C(=CC(=C1)C(NC)=O)F)C1=NC2=C(N1C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)C=CC(=C2)C | C26H30F2N4O4
